US07465731B2
To a solution of ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(cyclopentylmethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate (225 mg, 0.51 mmol) in EtOH (2.5 mL) was added 1N sodium hydroxide solution (1.0 mL) at ambient temperature and the mixture was allowed to stand for 18 hrs. The reaction mixture was adjusted to PH 5.0 with 1 mol/L hydrochloric acid and evaporated in vacuo to give (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(cyclopentylmethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylic acid.

reactant | ethyl (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(cyclopentylmethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate | 0.51 mmol, 225 mg | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)OCC)[C@H]1CN(CC1)CC1CCCC1 | C25H37N3O4
reactant | sodium hydroxide | 1N, 1.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | EtOH | 2.5 mL | CCO | C2H6O
product | (2E)-3-(6-{(tert-butoxycarbonyl)[(3R)-1-(cyclopentylmethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylic acid | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)/C=C/C(=O)O)[C@H]1CN(CC1)CC1CCCC1 | C23H33N3O4
